US09416138B2
N-{(1S)-2,2,2-Trifluoro-1-[4-({[2-(1-oxo-3,4-dihydroisoquinolin-2(1H)-yl)ethyl]amino}methyl)phenyl]ethyl}methanesulfonamide hydrochloride
Dissolve tert-butyl 2-(1-oxo-3,4-dihydroisoquinolin-2(1H)-yl)ethylcarbamate (220 mg, 0.76 mmol) in DCM (3 mL) and add trifluoroacetic acid (1 mL, 13.23 mmol). Stir at ambient temperature for 30 minutes. Concentrate the mixture under reduced pressure, then dissolve in 1,2-dichloroethane (20 mL). Add N-[(1S)-2,2,2-trifluoro-1-(4-formylphenyl)-ethyl]-methanesulfonamide (150 mg, 0.53 mmol), acetic acid (0.05 mL, 0.87 mmol), and sodium triacetoxyborohydride (642.3 mg, 3.03 mmol). Stir the mixture at ambient temperature overnight. Concentrate under reduced pressure to give a residue and dilute the residue with MeOH (2 mL). Purify the residue via preparatory TLC using 10% MeOH in DCM to give a colorless oil. Dissolve the oil in MeOH (3 mL) and add HCl (1M in diethyl ether; 0.5 mL, 0.5 mmol) and stir for 30 minutes. Concentrate under reduced pressure to give the title compound as a white solid (10 mg, 3.7%). MS (m/z): 456 (M-Cl).

reactant | tert-butyl 2-(1-oxo-3,4-dihydroisoquinolin-2(1H)-yl)ethylcarbamate | 0.76 mmol, 220 mg | O=C1N(CCC2=CC=CC=C12)CCNC(OC(C)(C)C)=O | C16H22N2O3
reactant | trifluoroacetic acid | 13.23 mmol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-[(1S)-2,2,2-trifluoro-1-(4-formylphenyl)-ethyl]-methanesulfonamide | 0.53 mmol, 150 mg | FC([C@H](C1=CC=C(C=C1)C=O)NS(=O)(=O)C)(F)F | C10H10F3NO3S
reactant | acetic acid | 0.87 mmol, 0.05 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.03 mmol, 642.3 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | 0.5 mmol, 1M, 0.5 mL | Cl | ClH
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2 mL | CO | CH4O
solvent | MeOH | 3 mL | CO | CH4O
product | N-{(1S)-2,2,2-Trifluoro-1-[4-({[2-(1-oxo-3,4-dihydroisoquinolin-2(1H)-yl)ethyl]amino}methyl)phenyl]ethyl}methanesulfonamide hydrochloride | 10 mg, 3.7% | Cl.FC([C@H](C1=CC=C(C=C1)CNCCN1C(C2=CC=CC=C2CC1)=O)NS(=O)(=O)C)(F)F | InChI=1S/C21H24F3N3O3S.ClH/c1-31(29,30)26-19(21(22,23)24)17-8-6-15(7-9-17)14-25-11-13-27-12-10-16-4-2-3-5-18(16)20(27)28;/h2-9,19,25-26H,10-14H2,1H3;1H/t19-;/m0./s1
